* /home/kanish/Fet-Based-Master-Slave-Negative-Edge-Triggered-Flipflop-Using-Sky130pdk/ms_ff/ms_ff.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Sun Oct 23 18:27:15 2022

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
v2  Vdd gnd DC		
v3  clk gnd pulse		
SC1  clk_bar clk Vdd Vdd sky130_fd_pr__pfet_01v8_hvt		
SC2  clk_bar clk gnd gnd sky130_fd_pr__nfet_01v8_lvt		
SC17  Net-_SC17-Pad1_ clk_bar Net-_SC13-Pad1_ Vdd sky130_fd_pr__pfet_01v8_hvt		
SC19  Net-_SC17-Pad1_ clk Net-_SC15-Pad1_ Vdd sky130_fd_pr__pfet_01v8_hvt		
SC7  Net-_SC10-Pad3_ clk Net-_SC5-Pad1_ Vdd sky130_fd_pr__pfet_01v8_hvt		
SC9  Net-_SC10-Pad3_ clk_bar Net-_SC10-Pad1_ Vdd sky130_fd_pr__pfet_01v8_hvt		
SC8  Net-_SC5-Pad1_ clk_bar Net-_SC10-Pad3_ gnd sky130_fd_pr__nfet_01v8_lvt		
SC10  Net-_SC10-Pad1_ clk Net-_SC10-Pad3_ gnd sky130_fd_pr__nfet_01v8_lvt		
SC18  Net-_SC13-Pad1_ clk Net-_SC17-Pad1_ gnd sky130_fd_pr__nfet_01v8_lvt		
SC20  Net-_SC15-Pad1_ clk_bar Net-_SC17-Pad1_ gnd sky130_fd_pr__nfet_01v8_lvt		
SC4  Net-_SC10-Pad1_ D gnd gnd sky130_fd_pr__nfet_01v8_lvt		
SC3  Net-_SC10-Pad1_ D Vdd Vdd sky130_fd_pr__pfet_01v8_hvt		
SC6  Net-_SC5-Pad1_ Qm gnd gnd sky130_fd_pr__nfet_01v8_lvt		
SC5  Net-_SC5-Pad1_ Qm Vdd Vdd sky130_fd_pr__pfet_01v8_hvt		
SC11  Qm Net-_SC10-Pad3_ Vdd Vdd sky130_fd_pr__pfet_01v8_hvt		
SC12  Qm Net-_SC10-Pad3_ gnd gnd sky130_fd_pr__nfet_01v8_lvt		
SC21  Q Net-_SC17-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8_hvt		
SC22  Q Net-_SC17-Pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt		
SC15  Net-_SC15-Pad1_ Qm Vdd Vdd sky130_fd_pr__pfet_01v8_hvt		
SC16  Net-_SC15-Pad1_ Qm gnd gnd sky130_fd_pr__nfet_01v8_lvt		
SC13  Net-_SC13-Pad1_ Q Vdd Vdd sky130_fd_pr__pfet_01v8_hvt		
SC14  Net-_SC13-Pad1_ Q gnd gnd sky130_fd_pr__nfet_01v8_lvt		
v1  D gnd pulse		
U1  D plot_v1		
U2  clk_bar plot_v1		
U3  clk plot_v1		
U4  Qm plot_v1		
U5  Q plot_v1		
scmode1  SKY130mode		

.end
