* /home/kanish/fet-based-master-slave-negative-edge-triggered-flipflop-using-sky130pdk/ms_ff/ms_ff.cir
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
v2 vdd gnd  dc 1.8
v3  clk gnd pulse(0 1.8 0.1m 0.1m 0.1m 1m 2m)
xsc1 clk_bar clk vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc2 clk_bar clk gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc17 net-_sc17-pad1_ clk_bar net-_sc13-pad1_ vdd sky130_fd_pr__pfet_01v8_hvt 
xsc19 net-_sc17-pad1_ clk net-_sc15-pad1_ vdd sky130_fd_pr__pfet_01v8_hvt 
xsc7 net-_sc10-pad3_ clk net-_sc5-pad1_ vdd sky130_fd_pr__pfet_01v8_hvt 
xsc9 net-_sc10-pad3_ clk_bar net-_sc10-pad1_ vdd sky130_fd_pr__pfet_01v8_hvt 
xsc8 net-_sc5-pad1_ clk_bar net-_sc10-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc10 net-_sc10-pad1_ clk net-_sc10-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc18 net-_sc13-pad1_ clk net-_sc17-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc20 net-_sc15-pad1_ clk_bar net-_sc17-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc4 net-_sc10-pad1_ d gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc10-pad1_ d vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc6 net-_sc5-pad1_ qm gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc5 net-_sc5-pad1_ qm vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc11 qm net-_sc10-pad3_ vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc12 qm net-_sc10-pad3_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc21 q net-_sc17-pad1_ vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc22 q net-_sc17-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc15 net-_sc15-pad1_ qm vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc16 net-_sc15-pad1_ qm gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc13 net-_sc13-pad1_ q vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc14 net-_sc13-pad1_ q gnd gnd sky130_fd_pr__nfet_01v8_lvt 
v1  d gnd pulse(0 1.8 0.1m 0.1m 0.1m 4m 8m)
* u1  d plot_v1
* u2  clk_bar plot_v1
* u3  clk plot_v1
* u4  qm plot_v1
* u5  q plot_v1
* s c m o d e
.tran 1e-03 50e-03 0e-00
* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d)+6 v(clk_bar)+9 v(clk)+12 v(qm)+3 v(q)
write ms_ff.raw all
.endc
.end
